US04579862
1-[2-Hydroxy-3-[(4-methoxyphenyl)methoxy]propyl]-1H-imidazole (20 g, 0.076 mol) was added to a stirred suspension of powdered potassium hydroxide (17 g, 0.30 mol) in dimethylsulphoxide (50 ml) at 18° C. and stirred for 0.5 hours. Ethyl 6-bromohexanoate (33.45 g, 0.15 mol) was then added and the resulting mixture was stirred at 18° C. for 12 hours. The reaction mixture was diluted with water (21) and washed with dichloromethane (2×100 ml), neutralised to pH 6-7 with sulphuric acid (2M) and extracted with dichloromethane (4×150 ml). The combined extracts were dried (Na2SO4) and the solvent was evaporated off under reduced pressure to give the crude product which by column chromatography (silica gel, 20% methanol in ethyl acetate) gave pure 6-[2-(1H-imidazol-1-yl)-1-[[(4-methoxyphenyl)methoxy]methyl]ethoxy]hexanoic acid as a colourless oil.

reactant | 1-[2-Hydroxy-3-[(4-methoxyphenyl)methoxy]propyl]-1H-imidazole | 0.076 mol, 20 g | OC(CN1C=NC=C1)COCC1=CC=C(C=C1)OC | C14H18N2O3
reactant | potassium hydroxide | 0.30 mol, 17 g | [OH-].[K+]
reactant | Ethyl 6-bromohexanoate | 0.15 mol, 33.45 g | BrCCCCCC(=O)OCC | C8H15BrO2
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-[2-(1H-imidazol-1-yl)-1-[[(4-methoxyphenyl)methoxy]methyl]ethoxy]hexanoic acid | N1(C=NC=C1)CC(OCCCCCC(=O)O)COCC1=CC=C(C=C1)OC | C20H28N2O5
